US20010027196A1
5-Bromo-N4-ethyl-6-furan-2-yl-pyrimidine-2,4-diamine
From 5-bromo-4-furan-2-yl-6-methanesulfinyl-pyrimidin-2-yl-amine and ethylamine in THF. ES-MS m/e (%): 285 (M{81Br}+H+, 100), 283 (M{79Br}+H+, 95).

reactant | 5-bromo-4-furan-2-yl-6-methanesulfinyl-pyrimidin-2-yl-amine | BrC=1C(=NC(=NC1S(=O)C)N)C=1OC=CC1 | C9H8BrN3O2S
reactant | ethylamine | C(C)N | C2H7N
solvent | THF | C1CCOC1 | C4H8O
product | 5-Bromo-N4-ethyl-6-furan-2-yl-pyrimidine-2,4-diamine | BrC=1C(=NC(=NC1C=1OC=CC1)N)NCC | C10H11BrN4O
